US05332731
Pivaloyloxymethyl 7-[(Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-(1,3-dioxolan-4-yl)methylthio-3-cephem-4-carboxylate
Sodium 7-[(Z)-2-(2-aminothiazol-4-yl)-2-trityloxyiminoacetamido]-3-(1,3-dioxolan-4-yl)methylthio-3-cephem-4-carboxylate (71 mg) as prepared in Example 35(b) was reacted with iodomethyl pivalate (68 mg) similarly to Example 28 for the esterification reaction. The resulting reaction solution was post-treated and the produced compound was recovered and purified similarly to Example 28 to give the titled compound (43 mg; 51%).

reactant | Sodium 7-[(Z)-2-(2-aminothiazol-4-yl)-2-trityloxyiminoacetamido]-3-(1,3-dioxolan-4-yl)methylthio-3-cephem-4-carboxylate | 71 mg | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CC2OCOC2)C(=S)[O-])C1=O)=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[Na+]
reactant | iodomethyl pivalate | 68 mg | C(C(C)(C)C)(=O)OCI | C6H11IO2
product | Pivaloyloxymethyl 7-[(Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-(1,3-dioxolan-4-yl)methylthio-3-cephem-4-carboxylate | 43 mg, 51% | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CC2OCOC2)C(=S)OCOC(C(C)(C)C)=O)C1=O)=N/O | C22H27N5O8S3
